### PR TITLE
Add semi-vector spaces

### PR DESCRIPTION
**Pull request by pi8027**
##### Motivation for this change

This PR:
- ~generalizes the type parameter (scalars) of `vectType` to `pzRingType`, and~
- adds the semi-vector space structure `semiVectType` over `pzSemiRingType`.

The latter generalization unlocks some generalization in `qpoly.v`, cf. https://github.com/math-comp/math-comp/pull/1269#issuecomment-2352387057 and #1466.

Questions/remarks:
- Now it's a bit weird that ssralg does not have a semifield structure.
- ~Can we generalize the (semi)vector space structures to potentially-zero (semi)rings?~ No, we shouldn't.

##### Dependencies

- #1467

##### Minimal TODO list

- [x] added changelog entries with `doc/changelog/make-entry.sh`

- [x] added corresponding documentation in the headers
- [x] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)
- [x] this PR contains an optimum number of meaningful commits

See [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) for details.

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs).

### CODE REVIEW

File: algebra/vector.v [hunk 1]
```diff
@@ -119,29 +119,57 @@ Delimit Scope vspace_scope with VS.
 Import GRing.Theory.
 
 (* Finite dimension vector space *)
+Record semivector_axiom_def (R : nzSemiRingType) n (V : lSemiModType R) := {
+  v2r : V -> 'rV[R]_n;
+  v2r_semilinear : semilinear v2r;
+  v2r_bijective : bijective v2r }.
+Arguments semivector_axiom_def [R] n%_N V%_type.
```
Comment (pi8027) [inline algebra/vector.v:133]: While `linear` is in `Prop`, `semilinear` is in `Type`. So I couldn't use the same sigma type to define this axiom.

File: algebra/vector.v [hunk 2]
```diff
@@ -1708,6 +1772,7 @@ End LinearPreimage.
 
 Arguments lpreimK {K aT rT f} [W] fW.
 
+(* TODO: generalize the section below to comPzSemiRingType *)
 Section LfunAlgebra.
```
Comment (proux01) [inline algebra/vector.v]: I guess this can be done in further PRs

Comment (pi8027) [reply algebra/vector.v]: Yes, and it would be easier to do so after merging #1462.

**Comment by pi8027** [comment]
I added the changelog entries

File: doc/changelog/02-changed/1464-semi-vector.md [hunk 3]
```diff
@@ -0,0 +1,16 @@
+- in `vector.v`
+  + The type parameter (scalars) of `vectType` generalized to `pzRingType`
+  + Semilinear function instance on `fun_of_lfun` generalized to `semiVectType`
+  + `nmodType`, `lSemiModType`, and `semiVectType` instances on `'Hom(aT, rT)`
+    generalized to `semiVectType`
+  + `semiVectType` instance on matrices generalized to `pzSemiRingType`
+  + `semiVectType` instance on `regular` generalized to `nzSemiRingType`
+  + `semiVectType` instances on `prod` and `{ffun I -> vT}` generalized to
+    `semiVectType`
```
Comment (pi8027) [inline doc/changelog/02-changed/1464-semi-vector.md]: These items should belong to `01-added`. I will fix this.

Comment (pi8027) [reply doc/changelog/02-changed/1464-semi-vector.md]: Done.

File: algebra/vector.v (hunk 2 above)
Comment (pi8027) [reply algebra/vector.v]: I opened an issue: #1470

File: algebra/vector.v [hunk 4]
```diff
@@ -169,13 +206,13 @@ End VectorExports.
...
 Section Iso.
-Variables (R : nzRingType) (vT rT : vectType R).
-Local Coercion dim : Vector.type >-> nat.
+Variables (R : pzSemiRingType) (vT rT : semiVectType R).
+Local Coercion dim : semiVectType >-> nat.
 
-Fact v2r_subproof : Vector.axiom vT vT. Proof. exact: vector_subdef. Qed.
-Definition v2r := s2val v2r_subproof.
+Fact v2r_subproof : SemiVector.axiom vT vT. Proof. exact: vector_subdef. Qed.
+Definition v2r := v2r v2r_subproof.
```
Comment (proux01) [inline algebra/vector.v:213]: Should this (as well as `r2v` and lemmas about them) appear in changelog?

File: algebra/vector.v [hunk 5]
```diff
@@ -219,7 +256,7 @@ Proof. exact: genmxE. Qed.
 End Vspace.
 
 Section Hom.
-Variables (R : nzRingType) (aT rT : vectType R).
+Variables (R : pzSemiRingType) (aT rT : semiVectType R).
 Definition f2mx (f : 'Hom(aT, rT)) := let: Hom A := f in A.
 HB.instance Definition _ : isSub _ _ 'Hom(aT, rT) := [isNew for f2mx].
```
Comment (proux01) [inline algebra/vector.v:261]: Should we note these as generalized in changelog?

File: algebra/vector.v [hunk 6]
```diff
@@ -1338,6 +1389,9 @@ Local Infix "*:l" := scale_lfun (at level 40).
 Fact lfun_scaleA k1 k2 f : k1 *:l (k2 *:l f) = (k1 * k2) *:l f.
 Proof. by apply/lfunP=> v; rewrite !lfunE /= lfunE scalerA. Qed.
 
+Fact lfun_scale0 f : 0 *:l f = 0.
```
Comment (proux01) [inline algebra/vector.v:1392]: Should we mention this one as addition in the changelog?

**Review by proux01 — COMMENTED** [review]
A few questions about the changelog

File: algebra/vector.v (hunk 6 above)
Comment (pi8027) [reply algebra/vector.v:1392]: It's an internal lemma for an instance declaration. IMO, documenting the generalization of the instance suffices.

Comment (proux01) [reply algebra/vector.v:1392]: Indeed

File: algebra/vector.v (hunk 4 above)
Comment (pi8027) [reply algebra/vector.v:213]: Similarly, this is an internal lemma. The potential issue is rather that this is not fully backward compatible. Nevertheless, it is in the `VectorInternalTheory` module, and the comment above explicitly says "The contents of this module [..] should therefore not be used outside of the vector library implementation."

File: algebra/vector.v (hunk 5 above)
Comment (pi8027) [reply algebra/vector.v:261]: I guess you are right. Let me check.

Comment (pi8027) [reply algebra/vector.v:261]: Done.
